US04379767
0.365 grams of dry hydrogen chloride (0.010 mole) was introduced into a solution of 0.43 grams of isocyanic acid (0.010 mole) in 3.44 grams of toluene at 0° under a nitrogen atmosphere. 1.18 gram of α-methylstyrene (0.010 mole) was added to the resultant carbamoyl chloride solution over a period of ten minutes while maintaining the temperature at 0° C. After fifteen minutes, cumyl chloride was present in 75% yield. 11.5 ml of 20.4% isocyanic acid in toluene (0.050 mole) was then added at 0° C. followed by addition of 0.50 ml of 1 M zinc chloride (0.00050 mole) in diisobutyl ketone over a period of 2 minutes at 0° C. After 5 minutes, cumyl isocyanate (b.p 50° C./1 mm was formed in 75% yield based α-methylstyrene.

reactant | hydrogen chloride | 0.010 mole, 0.365 grams | Cl | ClH
reactant | isocyanic acid | 0.010 mole, 0.43 grams | N=C=O | CHNO
reactant | α-methylstyrene | 0.010 mole, 1.18 gram | CC(=C)C1=CC=CC=C1 | C9H10
reactant | carbamoyl chloride | C(N)(=O)Cl | CH2ClNO
reactant | cumyl chloride | C(C)(C)(C1=CC=CC=C1)Cl | C9H11Cl
reactant | isocyanic acid | 11.5 ml | N=C=O | CHNO
solvent | toluene | 3.44 grams | C1(=CC=CC=C1)C | C7H8
solvent | diisobutyl ketone | C(C(C)C)C(=O)CC(C)C | C9H18O
catalyst | zinc chloride | 0.00050 mole, 1 M, 0.50 ml | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 0.050 mole | C1(=CC=CC=C1)C | C7H8
product | cumyl isocyanate | 75% yield | C(C)(C)(C1=CC=CC=C1)N=C=O | C10H11NO
